US05643932
111 mg of sodium boron hydride was added to a solution of 1.3 g of 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-hydroxy-5-formylmethylphenyl)thiazole in 30 ml of methanol, with stirring under ice-cooling. The mixture was stirred at the same temperature for 30 minutes. After the completion of a reaction, the solvent was removed by distillation. The residue was purified by silica gel column chromatography (eluent: dichloromethane/n-hexane =4/1) and recrystallized from diethyl ether to obtain 570 mg of 2-(3,4-diethoxyphenyl)-4-[3-methoxycarbonyl-4-hydroxy-5-(2-hydroxyethyl)phenyl]-thiazole.

reactant | sodium boron hydride | 111 mg | B.[Na]
reactant | 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-hydroxy-5-formylmethylphenyl)thiazole | 1.3 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C(=C1)CC=O)O)C(=O)OC | C23H23NO6S
solvent | methanol | 30 ml | CO | CH4O
product | 2-(3,4-diethoxyphenyl)-4-[3-methoxycarbonyl-4-hydroxy-5-(2-hydroxyethyl)phenyl]-thiazole | 570 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C(=C1)CCO)O)C(=O)OC | C23H25NO6S
